US08802670B2
Reaction between 2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-carbaldehyde and (S)-1-methanesulfonyl-2-methyl-piperazine hydrochloride salt using procedure C yielded 2-chloro-6-((S)-4-methanesulfonyl-3-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine. This compound was subjected to procedure A to yield the desired final compound which was purified using flash chromatography.

reactant | 2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-carbaldehyde | ClC=1N=C(C2=C(N1)C=C(S2)C=O)N2CCOCC2 | C11H10ClN3O2S
reactant | (S)-1-methanesulfonyl-2-methyl-piperazine hydrochloride salt | Cl.CS(=O)(=O)N1[C@H](CNCC1)C
product | 2-chloro-6-((S)-4-methanesulfonyl-3-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)CN2C[C@@H](N(CC2)S(=O)(=O)C)C)N2CCOCC2 | C17H24ClN5O3S2
